US08053438B2
2-Chloro-6-fluorobenzo[d]thiazole (7.0 g, 0.037 mol) and 4-aminophenol (4.0 g, 0.037 mol) in NMP (50 mL) was heated at 160° C. for 7 h. The reaction was quenched with 2N NaOH (100 mL) and then extracted with EtOAc (2×100 mL). The organic layer was washed with 2 N NaOH (50 mL) and to the combined aqueous layer was added 5 N HCl until pH 6 and then extracted with EtOAc (3×200 mL). The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The crude was purified by column chromatography (silica gel 100-200 mesh; 80% ethyl acetate in hexanes) to afford 4-(6-fluorobenzo[d]thiazol-2-ylamino)phenol as a white solid.

reactant | 2-Chloro-6-fluorobenzo[d]thiazole | 0.037 mol, 7.0 g | ClC=1SC2=C(N1)C=CC(=C2)F | C7H3ClFNS
reactant | 4-aminophenol | 0.037 mol, 4.0 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
product | 4-(6-fluorobenzo[d]thiazol-2-ylamino)phenol | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)O)C=C1 | C13H9FN2OS
